US08426420B2
i) [1-(2-Benzyloxycarbonylamino-acetyl)-piperidin-4-yl]carbamic acid butyl ester
To a solution of 150 mg Z-Gly-OH in 5 ml DMF were added 0.4 ml N-ethylmorpholine, 144 mg piperidin-4-yl-carbamic acid butyl ester and 236 mg TOTU. After stirring for 12 h it was diluted with ethyl acetate and subsequently washed with aqueous LiCl (4%), saturated NaHCO3 and 0.1 M HCl. The crude product thus obtained after evaporation of the solvent was directly used in the next step. Yield: 287 mg.

reactant | Z-Gly-OH | 150 mg | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | N-ethylmorpholine | 0.4 ml | C(C)N1CCOCC1 | C6H13NO
reactant | piperidin-4-yl-carbamic acid butyl ester | 144 mg | C(CCC)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | TOTU | 236 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-(2-Benzyloxycarbonylamino-acetyl)-piperidin-4-yl]carbamic acid butyl ester | C(CCC)OC(NC1CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)=O | C20H29N3O5
